Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amitriptyline / Norvasc
 
Attending: ___
 
Chief Complaint:
lethargy x ___ days
 
Major Surgical or Invasive Procedure:
- Intubation ___
- Extubation ___
- PICC placement ___
- PICC removal ___

 
History of Present Illness:
___ y/oM with PMH CAD, afib, DM, spinal cord atrophy who 
presented to the ED with lethargy x ___ days and was found to be 
hypoxic with presumed multifocal PNA and afib in RVR.

For the past ___ days, patient has been complaining of fatigue 
with decreased PO intake.  Also developed wet cough productive 
of clear sputum.  On the day prior to admission, his caregiver 
found him unable to get off the commode and tilting to the left. 
 Today, he was too tired to get out of bed so his partner ___ 
him to the ED.
  
In the ED, initial VS: 13 98.8 104 139/98 32 86% 4L NC.  He 
triggered for hypoxia and was placed on 100%NRB with sats rising 
to 100%.  CXR revealed multiple patchy opacities in left lung, 
blood and urine cultures were drawn and patient was given dose 
of vancomycin/ levofloxacin.  Neurology was consulted given 
trunchal ataxia on exam and did not feel that presentation was 
consistant with an acute intracranial event, recommending 
treating underlying illness.  ED course c/b development of afib 
with RVR with HR in the 160-180s.  Despite 50mg total of 
diltiazem IV, HR did not improve significantly.  Given 
hemodynamic instability, patient admitted to the ICU for further 
monitoring.

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats. Denies headache, sinus 
tenderness. Denies chest pain, chest pressure, palpitations. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
or changes in bowel habits. Denies dysuria, frequency, or 
urgency. Denies arthralgias or myalgias. Denies rashes or skin 
changes.  
 
Past Medical History:
# CAD s/p PCI x 2 with a history of MI and angioplasty ___ years 
ago. His most recent cardiac catheterization was in ___ at ___ which revealed non-flow 
limiting three-vessel disease and no intervention was performed 
at that time  
# Atrial flutter/atrial tachycardia status post ablation in 
___ with breakthrough atrial tachycardia and atrial 
flutter  
# Type 2 diabetes on insulin-followed by Dr. ___- ___ 
visit
A1C 7.5
# PVD followed by Dr. ___  
# Colon Ca -- s/p partial colectomy ___, no radiation or 
chemotherapy  
# Neuropathy -- progressing to R arm now; legs unchanged, uses 
wheelchair  
# Spinal stenosis -- MRI performed ___, no emergent issues, 
but some retrolisthesis of L4-5, status post laminectomy at 
L4-L5.  
# Alcohol abuse  
# History of mechanical falls.
 
Social History:
___
Family History:
No history of premature cardiac disease.
 
Physical Exam:
Physical Exam 
Vitals: T: 96.5  BP: 78/61  P: 135  R: 23  O2: 95% on 100% NRB  
General: cachextic elderly male; drowsy, oriented  
HEENT: Sclera anicteric, dry oral mucosa, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: tachycardia, irregular 
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: foley in place  
Ext: 2+ pulses, no clubbing, cyanosis or edema
Neuro: difficult to assess given mental status, moving all 
extremities. Decreased sensation in ___ b/l  

Physical Exam on Discharge:
VS: HR 80, RR 20, 92% on 2L
General: well-appearing, NAD, comfortable
HEENT: sclera anicteric, pale conjunctivae, mucous membrane dry
Neck: supple
Lung: CTAB in anteriorly but crackles posteriorly up to mid-lung 
field
CV: irregularly irreguar, non-tachycardic, no m/r/g
Abd: soft, NT, ND, no guarding, BS present
Extremities: no cyanosis or edema, 2+ dorsalis pedis pulses 
bilaterally
GU: mild edematous only on posterior aspect of distal shaft and 
non-erythematous foreskin, glans appear well-perfused and 
non-cyanotic, minimal pain with palpation, no catheter, no rash
Neuro: awake, alert and oriented to place (___), time (___), person (president ___)
Skin: small 1x1cm ulcer on the left buttock, clean without 
drainage or erythema around
 
Pertinent Results:
Admission Labs
___ 04:00PM BLOOD WBC-5.3# RBC-4.61# Hgb-14.9# Hct-43.3# 
MCV-94 MCH-32.2* MCHC-34.3 RDW-13.1 Plt ___
___ 04:00PM BLOOD Neuts-62 Bands-5 ___ Monos-5 Eos-0 
Baso-0 Atyps-4* Metas-2* Myelos-0
___ 04:00PM BLOOD ___ PTT-24.0 ___
___ 04:00PM BLOOD Glucose-272* UreaN-21* Creat-0.8 Na-130* 
K-4.4 Cl-95* HCO3-22 AnGap-17
___ 04:00PM BLOOD ALT-6 AST-11 CK(CPK)-22* AlkPhos-88 
TotBili-0.8
.
Pertinent Labs
___ 04:00PM BLOOD CK-MB-2
___ 04:00PM BLOOD cTropnT-<0.01
___ 03:43AM BLOOD cTropnT-<0.01
___ 12:02AM BLOOD TSH-1.1
___ 04:00PM BLOOD Cortsol-55.9*
___ 03:43AM BLOOD Cortsol-19.5
___ 04:00PM BLOOD Digoxin-0.7*
___ 06:17PM BLOOD Lactate-1.7
.
___ 04:30PM URINE ___ WBC-0 Bacteri-OCC Yeast-NONE 
___ 04:30PM URINE Blood-SM Nitrite-NEG Protein-75 
Glucose-250 Ketone-15 Bilirub-SM Urobiln-1 pH-5.0 Leuks-NEG
___ 04:54PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

Microbiology
___ Urine culture: negative
___ Blood culture x2: negative
___ MRSA screen: negative
___ Urine legionella antigen: negative
___ Influenza A and B antigens: negative
___ Sputum culture: contaminated.  Legionella culture 
negative
___ Sputum culture: >25 PMNs and <10 epithelial cells/100X 
field.  No microorganisms seen. Commensal flora absent.  2 
morphologies of yeast. 

Imagings
CXR (___): Markedly limited study. There is suggestion of a 
dense 
consolidation of the left lower and mid lung zones. This may 
represent 
pneumonia. If clinically feasible, consider PA and lateral views 
in the 
radiology suite for better characterization. 

CT Head (___): 
1. Prominent ventricles, ___ represent normal 
pressure 
hydrocephalus in the appropriate clinical setting. Clinical 
correlation 
recommended. 
2. No other acute intracranial process identified. 

TTE (___): Mild symmetric LVH with normal regional and 
global biventricular systolic function. Moderate tricuspid 
regurgitation. Mild pulmonary artery systolic hypertension.

CXR (___): Worsening right upper lobe and left mid and 
lower lung opacities, consistent with worsening pneumonia. 

CXR (___): As compared to the previous radiograph, there is 
minimal
improvement of the pre-existing mainly perihilar and left 
lateral parenchymal opacities. The extent of the retrocardiac 
atelectasis, potentially combined with a small pleural effusion, 
is unchanged.  On the right, the parenchymal opacities have 
apparently decreased in extent.  No evidence of newly appeared 
parenchymal opacities. Unchanged size of the cardiac silhouette. 
Unchanged position of the endotracheal tube and the nasogastric 
tube.
 
Brief Hospital Course:
___ year old male with coronary artery disease s/p PCI, atrial 
tachycardia s/p failed ablation, diabetes mellitus type II 
complicated by neuropathy leading to spinal cord atrophy who 
presented to the ED with lethargy x ___ days and was found to be 
hypoxic with presumed multifocal PNA and atrial 
fibrillation/tachycardia with RVR.

# Hypotension, resolved: BP on arrival to ICU was 70/50 in the 
setting of likely multifocal pneumonia seen on CXR and volume 
depletion in the setting of poor oral intake.  Bedside echo 
showing hyperdynamic ventricles and respiratory variation in IVC 
filling pressures on admission consitent with hypovolemia.  He 
was aggressively fluid resuscitated by early goal directed 
protocol with MAP > 65. He was started on Levaquin for community 
acquired pneumonia and cefepime for Gram negative coverage in 
setting of chronic aspiration.  He was ruled out for ACS with 
three sets of enzymes.  Random and am cortisol showed 
appropriate adrenal function.  His hypotension resolved with 
fluid resuscitation and never needed pressors.  He was 
normotensive off medications.  

# Hypoxia, resolved: Persistent hypoxia to mid-80s on RA in the 
ED, likely ___ underlying multifocal PNA which is visualized on 
CXR.  Hx of recurrent PNA suggestive of repeat aspiration 
events.  Alternatively, patient with risk factors, peripheral 
neuropathy and multiple bacterial infections is also at risk of 
HIV which was sent.  He was started on levaquin for CAP and 
cefepime for gram negative coverage in setting of chronic 
aspiration.  Pt improved and was called out to the floor on ___. 
 On the floor he maintained his blood pressure and heart rate 
but required continued oxygen with saturations in the low to mid 
90's on 3L NC. On ___, he triggered for mental status changes 
with orientation to self.  He had significant rhonchi on exam at 
that time and respiratory was called; deep suction removed large 
amounts of mucous which were sent for culture. Later that 
evening, the patient was noted to have worsnening oxygen 
requirement with 93% oxygen on 5 liters and 97% on a 
nonrebreather.  Deep suction was attempted but the patient had 
desaturation in this context.  Received zydis 2.5 mg for 
agitation and paranoia. ABG ___. Transferred back to MICU 
for respiratory evaluation. On ___, he continued to require deep 
suctioning for large amount of secretions.  He continued to get 
chest physical therapy with deep suctioning for large amount of 
secretions on ___ as well.  On ___, he was noted to have 
increased requirement in his ___ mask from 50% to 100% with 
whiteout of left lung bases concerning for mucous plug.  He was 
intubated for respiratory distress on ___.  He was 
extubated on ___ when goals of care were changed to comfort 
measures only (see below). Since then, he has been on minimal 
oxygen and morphine intermittently for comfort and maintaining 
O2 saturation in mid 90% on RA.

# Leukocytosis: His WBC increased on ___ and continued to rise 
on ___.  He was started on vancomycin/flagyl while levaquin 
and cefepime were continued as he was clinically getting worse.  
IV Vancomycin/flagyl/levaquin and cefepime were discontinued on 
___ when he was made CMO

# Delirium.  Resolving.  He was noted to be agitated and 
paranoid while being transferred back to the MICU.  Likely 
secondary to hypoxia, improved with deep suctioning and 
respirator stabilization.  His agitation has been managed by 
olanzepine rapid disintegrating tab.  He has not had episodes of 
agitation since being on olanzepine.  Upon discharge, he is 
oriented to person, place, and time.

# Atrial fibrillation with RVR: on initial arrival to ICU, HR in 
150-160s and irregular.  Underlying process of pneumonia is 
likely the driving force for it.  Patient was on anticoagulation 
alone with aspirin and plavix given history of multiple falls.  
He was started on amiodarone and over the next few days was 
weaned off metoprolol and digoxin. TTE was performed which 
showed LVH and no clots. Amiodarone IV changed to PO on ___, 
and then changed to home metoprolol. He remained stable in AFib 
without RVR.  He was noted to have RVR on ___ and was 
restarted on amiodarone while metoprolol was discontinued.  On 
___, he continued to be in RVR with rates in 120s so 
metoprolol was added for rate control with amiodarone.  However, 
because he was made CMO, his AFib medications were discontinued. 
 His HR has been mostly < 100 per minute off of medications.  

# Truncal ataxia: per ED evaluation, patient persistently 
leaning towards left.  CT head was negative.  Per neurology, 
there was no acute process.

# H/o CAD: He denied angina.  EKG was without acute ST changes. 
Cardiac enzymes were negative x 3.  Initially, he was continued 
on aspirin, Plavix, and metoprolol as mentioned above.  However, 
after he was made CMO, these medications were held. 

# H/o ETOH abuse.  There was no h/o withdrawal seizures.  He did 
not have evidence of active withdrawal while in the hospital.

# Type II DM: No evidence of DKA by labs.  Patient was managed 
by insulin sliding scale.  However, with CMO status, finger 
stick and insulin administration were held.

# Malnutrition: Albumin of 2.1.  Per speech and swallow, NPO 
with crushed meds in apple sauce with concern for chronic 
aspiration and will need to be reevaluted once off of face mask 
for oxygen.  NG tube placed on ___ and tube feeds started 
with nutritions help.  Tube feeds held on ___ in the setting of 
desaturation and copious secretions, due to concern for 
aspiration.  Restarted ___ as it seemed that secretions were 
mucous and not gastric contents.  However, with CMO status, 
patient resumed regular diet per his preference and nutritional 
supplement was added.

# Left buttock ulcer.  1 cm x 1 cm.  Area does not appear to be 
infected.  This should continue to be monitored with regular 
repositioning every 2 hours and daily wound care.

# Comfort measures only: On ___ after extensive discussion 
with his health care proxy, it was decided to make the patient 
comfort measures only and was extubated on ___.  
Antibiotics were discontinued.  He was transitioned to narcotics 
as needed for shortness of breath and pain.  He was discharged 
on oral morphine solution as his Foley catheter and PICC were 
removed on ___ and ___ respectively.  He will be 
followed by hospice.  It will be important to continue the 
discussion of Do Not Hospitalize with patient and his health 
care proxy.
 
Medications on Admission:
levothyroxine 25 mcg daily
amlodipine 5 mg daily
metoprolol succinate 50 mg daily
bupropion 150 mg daily
lisinopril 10 mg daily
ipratropium-albuterol (duoneb) BID
allopurinol ___ mg BID
advair 250-50 q12h
tylenol ___ mg BID
simethicone 1 tablet BID
gabapentin 300 mg TID
ASA 81 mg daily
fluticason 2 sprays each nostril daily
artificial tears at bedtime
docusate 200 mg qhs
miralax 17 g qhs prn
senna 2 tabs qhs
 
Discharge Medications:
1. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) neb Inhalation every ___ hours as 
needed for shortness of breath or wheezing.
Disp:*30 neb* Refills:*0*
2. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain or fever.  
3. bisacodyl 5 mg Tablet Sig: Two (2) Tablet, Delayed Release 
(E.C.) PO DAILY (Daily) as needed for constipation.
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
4. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
5. ipratropium bromide 0.02 % Solution Sig: One (1) neb 
Inhalation every ___ hours as needed for shortness of breath or 
wheezing.
Disp:*30 neb* Refills:*0*
6. olanzapine 5 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO once a day.
Disp:*30 Tablet, Rapid Dissolve(s)* Refills:*0*
7. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
packet PO DAILY (Daily) as needed for constipation.
Disp:*30 packet* Refills:*0*
8. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*
9. morphine 10 mg/5 mL Solution Sig: Five (5) mL PO Q1-2 hour as 
needed for pain or shortness of breath.
Disp:*1000 mL* Refills:*2*
10. nicotine 21 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily) for 3 weeks: Continue for another two 
weeks before tapering to 14 mg/24 hour patch.
Disp:*21 Patch 24 hr(s)* Refills:*0*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses:
- Multifocal pneumonia
- Atrial fibrillation with rapid ventricular rate

Secondary diagnoses:
- Delirium 
- spinal atrophy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you at ___ 
___.

You were admitted to the hospital for pneumonia and fast 
irregular heart rate.  You were treated with antibiotics for the 
pneumonia as well as medications to help controlling your heart. 
 

Because of your worsening breathing, you were on a ventilator (a 
machine that help to breath for you) for a short period of time. 
 After a discussion between your health care proxy and your 
intensive care team, it was decided that you would prefer to 
live with dignity and would prefer not to have invasive 
procedures done such as a PEG tube (feeding tube) or a 
tracheostomy (more permanent breathing tube).  You did very well 
after they remove the ventilator and required minimal oxygen.

The medical team discussed with you about hospice.  You and your 
health care proxy both decided that you want to ultimately be 
home with hospice.  Hospice nurse and social workers came and 
explored with you regarding your options and necessary support 
that you may need.  While resources at home get set up, it is 
thought that you can go to inpatient hospice for a period of 
time.  

Please note the following changes in your medications:
- Please START Tylenol ___ mg tab, ___ tabs, every 6 hours as 
needed for pain or fever
- Please START albuterol nebulizer, 1 neb, every ___ hours as 
needed for shortness of breath or wheeze
- Please START bisacodyl 10 mg, 1 tab, by mouth, once a day as 
needed for constipation
- Please START docusate 100 mg, 1 tab, by mouth, twice a day to 
soften your stool
- Please START ipratropium neb, 1 neb, every ___ hours as needed 
for shortness of breath or wheeze
- Please START Miralax, 1 packet, by mouth, once a day as needed 
for constipation
- Please START morphine 10mg/5mL, 5mL, by mouth, every ___ hours 
as needed for pain or shortness of breath.
- Please START olanzapine zydus 5 mg, 1 tab, by mouth, once a 
day in the evening.
- Please START senna, 1 tab, by mouth, once a day as needed for 
constipation
- Please DISCONTINUE mirtazipine 30 mg at night prior to bed 
time
- Please DISCONTINUE Flomax 0.4 mg once a day
- Please DISCONTINUE Plavix 75 mg once a day
- Please DISCONTINUE calcium carbonate with vitamin D 600 mg-400 
units
- Please DISCONTINUE Humulin 70/30 insulin
- Please DISCONTINUE Aspirin 325 mg once a day
- Please DISCONTINUE digoxin 125 mcg once a day
- Please DISCONTINUE Megace 20 mL once a day
- Please DISCONTINUE metoprolol 75 mg three times a day
- Please DISCONTINUE macrodantin 100 mg twice a day
- Please DISCONTINUE flunase 50 mcg 2 sprays twice a day
- Please DISCONTINUE gabapentin 300 mg 4 times a day
- Please DISCONTINUE multivitamin once a day
- Please DISCONTINUE folic acid once a day

 
Followup Instructions:
___